US05021435
Dry diisopropylamine (1 ml, 5.7 mmol) was added to dry tetrahydrofuran (3 ml), and a butyllithium solution (3.9 ml, 6.2 mmol) in hexane was added dropwise at -40° C., the miXture was kept at -10° C. for 1 hour. A solution of 3-methyl-2-(3-pyridyl)thiazolidin-4-one (1 g, 5.2 mmol) in dry tetrahydrofuran (7 ml) was added dropwise to the mixture at -20° to -10° C. After this reaction mixture had been kept between those temperatures for 1 hour, there were added at -10° C. 1 bromobutane (0.78 g, 5.7 mmol) dissolved in tetrahydrofuran (2 ml), sodium iodide (0.77 g, 5.2 mmol), and hexamethylphosphorotriamide (1 ml). This reaction mixture was kept at room temperature for 2 hours. The resulting mixture, after addition of a phosphate buffer (pH 7.0), was extracted with ethyl acetate. The extract was dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated by evaporation under reduced pressure. The residue was chromatographed on silica gel (hexane-ethyl acetate), giving 5-butyl-3-methyl-2-(3-pyridyl)thiazolidin-4-one (250 mg, 20% yield).

reactant | diisopropylamine | 5.7 mmol, 1 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 6.2 mmol, 3.9 ml | C(CCC)[Li]
reactant | 3-methyl-2-(3-pyridyl)thiazolidin-4-one | 5.2 mmol, 1 g | CN1C(SCC1=O)C=1C=NC=CC1 | C9H10N2OS
reactant | bromobutane | 5.7 mmol, 0.78 g | BrCCCC | C4H9Br
reactant | sodium iodide | 5.2 mmol, 0.77 g | [I-].[Na+]
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | 1 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 5-butyl-3-methyl-2-(3-pyridyl)thiazolidin-4-one | 250 mg, 20% yield | C(CCC)C1C(N(C(S1)C=1C=NC=CC1)C)=O | C13H18N2OS
